US05502054
A stirred solution of 5.0 mL (0.036 mole) of diisopropylamine in 100 mL of tetrahydrofuran was cooled to 0° C., and 14.3 mL (0.036 mole) of n-butyllithium (2.5M in hexanes) was added dropwise. Upon completion of addition, 9.6 grams (0.036 mole) of tributyltin hydride was added dropwise during a 15 minute period. The reaction mixture was then stirred at 0° C. for 15 minutes. After this time the reaction mixture was cooled to -78° C., and a solution of 7.0 grams (0.036 mole) of 3-(4-chlorophenyl)-3-methylbutyraldehyde in 10 mL of tetrahydrofuran was added dropwise, while maintaining the reaction mixture temperature below -70° C. The complete addition required about 20 minutes. After this time the reaction mixture was stirred at below -70° C. for ten minutes. The reaction was then quenched by the dropwise addition of about 300 mL of aqueous dilute ammonium chloride solution to the cold reaction mixture. The complete addition required about 10 minutes. The cooling bath was removed, and the reaction mixture was extracted with two 200 mL portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, at a temperature of less than 30° C., yielding 17.4 grams of 3-(4-chlorophenyl)-3-methyl-1-tributylstannylbutanol.

reactant | diisopropylamine | 0.036 mole, 5.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.036 mole, 2.5M, 14.3 mL | C(CCC)[Li]
reactant | tributyltin hydride | 0.036 mole, 9.6 grams | C(CCC)[SnH](CCCC)CCCC
reactant | 3-(4-chlorophenyl)-3-methylbutyraldehyde | 0.036 mole, 7.0 grams | ClC1=CC=C(C=C1)C(CC=O)(C)C | C11H13ClO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-(4-chlorophenyl)-3-methyl-1-tributylstannylbutanol | 17.4 grams | ClC1=CC=C(C=C1)C(CC(O)[Sn](CCCC)(CCCC)CCCC)(C)C | InChI=1S/C11H14ClO.3C4H9.Sn/c1-11(2,7-8-13)9-3-5-10(12)6-4-9;3*1-3-4-2;/h3-6,8,13H,7H2,1-2H3;3*1,3-4H2,2H3;
